US07378409B2
tert-Butyl cis-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate hydrochloride salt (350 mg, 0.79 mmol, 1 eq) was dissolved in dioxane (5 mL) at room temperature then 4N HCl (1.97 mL, 7.9 mmol, 10 eq) was added. Stirred for 20 hours. The reaction was stripped 4 times from 1:1 THF/methylene chloride (20 mL) to give N-(2-(cis-4-amino-cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide hydrochloride (300 mg) as a white amorphous solid. MS found: (M+H)+=344.32.

reactant | tert-Butyl cis-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate hydrochloride salt | 0.79 mmol, 350 mg, 1 eq | Cl.FC(C=1C=C(C(=O)NCC(=O)N[C@H]2CC[C@H](CC2)NC(OC(C)(C)C)=O)C=CC1)(F)F
reactant | HCl | 7.9 mmol, 4N, 1.97 mL, 10 eq | Cl | ClH
reactant | THF methylene chloride | 20 mL | C1CCOC1.C(Cl)Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(2-(cis-4-amino-cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide hydrochloride | 300 mg | Cl.N[C@H]1CC[C@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | InChI=1S/C16H20F3N3O2.ClH/c17-16(18,19)11-3-1-2-10(8-11)15(24)21-9-14(23)22-13-6-4-12(20)5-7-13;/h1-3,8,12-13H,4-7,9,20H2,(H,21,24)(H,22,23);1H/t12-,13+;
